datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:11]1=[CH:10][C:61]2=[C:62]([NH:12]1)[CH:63]=[CH:64][C:73](C)=[CH:72]2.Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>C[C:11]1=[NH+:12][C:62]2=[C:61]([CH:10]1[C:20]1(Cl)[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]1=[O:33])[CH:72]=[C:73](C)[CH:64]=[CH:63]2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.C[N:12](C)[N:11]=[CH2:10]>>C[N+:12](C)=[N:11][CH2:10][C:20]([O-:21])=[N:31]C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C.[CH-:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]2[CH:61]=[CH:62][C:72]3=[C:71]2[CH:76]=[CH:75][CH:74]=[CH:73]3)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
C1C[N:72]([C:61]([S-:10])=[S:62])CCO1.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([S:10][C:61](=[S:62])[N:72]2CCOCC2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C[CH:10]=[N+:11]([O-:12])[O-:62].[F:20][N+:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1>>C[CH:10]([N+:11](=[O:12])[O-:62])[F:20].[N:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1 10,11=10,20;12=11,12;20,21=21"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)([CH:10](C)C2=CC=CC=C2)[O:12]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)=[O+:12]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](C)C2=CC=CC=C2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC(C)(C)[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.FC(F)(F)[C:63]1=[CH:64][C:73](C(F)(F)F)=[CH:72][C:61]([S-:10])=[CH:62]1>>CC(C)(C)[C:22]1=[C:21]([CH:20]([S:10][C:61]2=[CH:62][C:63](C(F)(F)F)=[CH:64][C:73](C(F)(F)F)=[CH:72]2)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1 10=20;20,21=21,22;22,23=23"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.C1C[N:10]=[C:11]2CCC[N:12]2C1>>C1C[N:10]([CH:20]([CH:21]=[CH:22][N:23]2CCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:11]2=[N+:12](C1)CCC2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.CC[N+](CC)(CC)[BH-:11](Br)[H:10]>>C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH:20]([H:10])[C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.CC[N+](CC)(CC)[BH:11]Br 10,11=10,20"
"C[O:33][C:22]([CH:21]=[CH2:20])=[O:23].C[Sn:63](C)(C)[CH:62]1C2=C(C=CC=C2)[CH:10]=[CH:11]1>>C[O:33][C:22](=[CH:21][CH2:20][CH:10]1C2=C(C=CC=C2)[CH:62]([Sn:63](C)(C)C)[CH+:11]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.C[N:16](C)[C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([N:86](C)C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.C[N+:16](C)=[C:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([N:86](C)C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].C1=CC=C(/[CH:10]=[CH:11]/[N:12]2CCCC2)C=C1>>C1=CC=C([CH:10]([CH:11]=[N+:12]2CCCC2)[CH:20]([C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].[CH:10](=[N+:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([Br:65])[CH:73]=[CH:72]1>>C[C:22](=[CH:21][CH:20]([CH:10]([N+:11]#[N:12])[C:61]1=[CH:62][CH:63]=[C:64]([Br:65])[CH:73]=[CH:72]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.[CH:10]1=[CH:11][CH:12]=[C:13]([B-:64]([F:65])([F:75])[F:85])[O:14]1>>Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[CH:11]=[CH:12][C:13]([B-:64]([F:65])([F:75])[F:85])=[O+:14]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14=13,14"
